US05574055
(RS)-3-[4-(trans-4-Methanesulfinylmethoxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one (diastereomer mixture)
1.71 g (4.68 mmol) of (RS)-5-methoxymethyl-3-[4-(trans-4-methylsulfanylmethoxy-cyclohexyl)-phenyl]-oxazolidin-2-one were dissolved in 100 ml of methanol, cooled to 0° and treated dropwise while stirring during 40 minutes with a solution of 1.0 g (4.68 mmol) of sodium metaperiodate dissolved in 40 ml of water. The reaction mixture was held at about 4° for 24 hours. Thereafter, it was diluted with water and the product was extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulfate and filtered. The filtrate was filtered through 50 g of silica gel 60 and washed separately with methanol. After evaporation of the methanol eluate the diastereomer mixture, (RS)-3-[4-(trans-4-methanesulfinylmethoxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one, was crystallized from benzene. M.p.: 98°-100°.

reactant | (RS)-5-methoxymethyl-3-[4-(trans-4-methylsulfanylmethoxy-cyclohexyl)-phenyl]-oxazolidin-2-one | 4.68 mmol, 1.71 g | COCC1CN(C(O1)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OCSC | C19H27NO4S
reactant | sodium metaperiodate | 4.68 mmol, 1.0 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | (RS)-3-[4-(trans-4-Methanesulfinylmethoxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | CS(=O)CO[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(OC(C1)COC)=O | C19H27NO5S
